US06278025B1
Preparation of 4-(1,1-dimethylethyl)benzylidene-4′-methoxyacetophenone
97.6 g (0.65 mol) of 4-methoxyacetophenone and 105.4 g (0.65 mol) of 4-(1,1-dimethylethyl)benzaldehyde were dissolved in 600 ml of methanol in a 1 1 round-bottom flask fitted with internal thermometer, reflux condenser and paddle stirrer. 20 g (0.05 mol) of 10% NaOH were then added at room temperature. The mixture was then stirred at 30° C. The crystals which formed were filtered off, washed with 50 ml of cold methanol and then dried under reduced pressure (150 mbar) at 75° C. Yield: 172 g (90% yield) of pale yellow crystals; m.p.: 114-116° C.; purity: >99%.

reactant | 4-methoxyacetophenone | 0.65 mol, 97.6 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | 4-(1,1-dimethylethyl)benzaldehyde | 0.65 mol, 105.4 g | CC(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | NaOH | 0.05 mol, 20 g | [OH-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
product | 4-(1,1-dimethylethyl)benzylidene-4′-methoxyacetophenone | Yield: 172 g, 90% yield | CC(C)(C)C1=CC=C(C=CC(=O)C2=CC=C(C=C2)OC)C=C1 | C20H22O2
